US07612114B2
Synthesized from 6-methoxybenzo[b]thiophene according to an analogous synthetic method to Preparation Example 78, (6-methoxybenzo[b]thiophen-2-yl)boronic acid (3.2 g) and 4-bromo-3-nitroanisole (3.4 g) were used according to an analogous synthetic method to Preparation Example 79 to provide 6-methoxy-2-(4-methoxy-2-nitrophenyl)benzo[b]thiophene (1.7 g). Synthesized from this compound (1.9 g) according to an analogous synthetic method to Example 22, the title compound (1.6 g) was obtained.

reactant | 6-methoxybenzo[b]thiophene | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | (6-methoxybenzo[b]thiophen-2-yl)boronic acid | 3.2 g | COC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO3S
reactant | 4-bromo-3-nitroanisole | 3.4 g | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
product | 6-methoxy-2-(4-methoxy-2-nitrophenyl)benzo[b]thiophene | 1.7 g | COC=1C=CC2=C(SC(=C2)C2=C(C=C(C=C2)OC)[N+](=O)[O-])C1 | C16H13NO4S
